US04861798
9(4-methoxyphenyl)nonanoic acid
To a stirring solution of 7.5 gms 9(4-methoxyphenyl)-7-ketononanoic acid in 35 ml diethylene glycol was added 5.1 ml hydrazine hydrate. The mixture was heated to 120° for 4 hrs, cooled to room temperature, connected to a water aspirator, and gently heated to 120° to remove excess water and hydrazine. The reaction mixture was cooled to 70°, 7.2 gm KOH was added, and the mixture was heated up to 220° C. where it was kept for 5 hr, then cooled. The cooled reaction mass was dissolved in 120 ml hot water, acidified with conc. HCl, and 3× extracted with CHCl3. The combined organic phases were dried over MgSO4, filtered, and the solvent was evaporated in vacuo. Attempts to crystallize the product failed, so it was vacuum sublimed twice, dissolved in 300 ml chloroform, filtered through silica gel, and the solvent evaporated to give 38% product, a white solid of m.p. 41°-3° C.

reactant | 9(4-methoxyphenyl)-7-ketononanoic acid | 7.5 gms | COC1=CC=C(C=C1)CCC(CCCCCC(=O)O)=O | C16H22O4
reactant | hydrazine hydrate | 5.1 ml | O.NN
reactant | HCl | Cl | ClH
solvent | diethylene glycol | 35 ml | C(COCCO)O | C4H10O3
solvent | water | 120 ml | O | H2O
product | 9(4-methoxyphenyl)nonanoic acid | 38% | COC1=CC=C(C=C1)CCCCCCCCC(=O)O | C16H24O3
